US04182776
2-Phenoxy-1-propanol O-methanesulfonate
To a solution of 15.2 g of 2-phenoxy-1-propanol, 20.8 ml of triethylamine and 300 ml of dichloromethane chilled to -10° C. in an ice-salt bath, is added dropwise 7.78 ml of methanesulfonyl chloride over 10 minutes. The solution is stirred at -10° C. for 30 minutes, washed with 100 ml of ice water, 100 ml of cold 10% hydrochloric acid, 100 ml of cold saturated sodium bicarbonate solution, 100 ml of cold saturated sodium chloride solution and dried (magnesium sulfate). The solvent is removed under vacuum to give the product as an oil.

reactant | 2-phenoxy-1-propanol | 15.2 g | O(C1=CC=CC=C1)C(CO)C | C9H12O2
reactant | triethylamine | 20.8 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 7.78 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
product | 2-Phenoxy-1-propanol O-methanesulfonate | CS(=O)(=O)OCC(C)OC1=CC=CC=C1 | C10H14O4S
